US05028601
1- Diphenylmethyloxy-5 p-methoxybenzyloxy-2-hydroxymethyl-4-pyridone
5.54 g of 5-p-methoxybenzyloxy-1-hydroxy-2-hydroxymethyl-4-pyridone is suspended in 40 ml of N,N-dimethylformamide, and then 2.24 g of potassium t-butoxide is added with ice cooling to dissolve. 4.94 g of benzhydryl bromide is added thereto and reacted at room temperature for 2.5 hours.

reactant | 5-p-methoxybenzyloxy-1-hydroxy-2-hydroxymethyl-4-pyridone | 5.54 g | COC1=CC=C(COC=2C(C=C(N(C2)O)CO)=O)C=C1 | C14H15NO5
reactant | potassium t-butoxide | 2.24 g | CC(C)([O-])C.[K+]
reactant | benzhydryl bromide | 4.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1- Diphenylmethyloxy-5 p-methoxybenzyloxy-2-hydroxymethyl-4-pyridone | C1(=CC=CC=C1)C(ON1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)CO)C1=CC=CC=C1 | C27H25NO5
